US05654280
A stirred solution of 10.83 g of per-0-acetyl xylitol bromide in 30 ml of dry 1,2-dimethoxyethane was added dropwise to a stirred suspension of 13.0 g of lithium aluminum hydride in 200 ml of dry 1,2-dimethoxyethane kept under nitrogen at room temperature. After this processing, 3.34 g of 1,5-anhydroxylitol was obtained.

reactant | lithium aluminum hydride | 13.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1,2-dimethoxyethane | 30 ml | COCCOC | C4H10O2
reactant | 1,2-dimethoxyethane | 200 ml | COCCOC | C4H10O2
product | 1,5-anhydroxylitol | 3.34 g | C1[C@H](O)[C@@H](O)[C@H](O)CO1 | C5H10O4
